US06340670B1
4-Methoxy-benzoic acid 4,5-diacetoxy-6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-diacetoxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-tetrahydro-pyran-2-ylmethyl ester
The title compound was prepared as a white foam (0.142 g, 81%) from 4-methoxy-benzoic acid 6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-dihydroxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-4,5-dihydroxy-tetrahydro-pyran-2-ylmethyl ester using a procedure similar to Example 25, mp >110° C. (decomp.); 1H NMR (DMSO-d6) δ1.94 (s, 3H), 1.95 (s, 3H), 1.98 (s, 3H), 1.99 (s, 3H), 2.06 (s, 3H), 3.61 (t, J=9.7 Hz, 1H), 3.68-3.75 (m, 1H), 3.80 (dd, J=4.6, 9.4 Hz, 1H), 3.82 (s, 3H), 3.82-3.89 (m, 1H), 4.11-4.16 (m, 1H), 4.17 (q, 9.7 Hz, 1H), 4.40 (dd, J=3.3, 12.3 Hz, 1H), 4.63 (ABq, J=12.7 Hz, Δδ=0.15, 2H), 4.64 (d, J=10.8 Hz, 1H), 4.77 (dd, J=7.9, 9.4 Hz, 1H), 4.86-4.91 (m, 2H), 5.26 (t, J=9.9 Hz, 1H), 5.32-5.38 (m, 2H), 5.54 (s, 1H), 7.06 (dt, J=2.9, 9.7 Hz, 3H), 7.29-7.37 (m, 5H), 7.42 (d, J=8.1 Hz, 1H), 7.61 (s, 1H), 7.99 (dt, J=2.9, 9.9 Hz, 2H), 9.4 (s, 1H); IR (KBr) 3400, 2950, 2840, 1755, 1700, 1600, 1580, 1535, 1515, 1450, 1420, 1375, 1240, 1165, 1110, 1070, 1055, and 1030 cm−1; mass spectrum [(+) FAB], m/z 914/916 (M+H)+, 936/938 (M+Na)+; Anal. Calcd. for C44H48ClNO18.1.0 H2O: C, 56.68; H, 5.41; N, 1.50, Found: C, 56.37; H, 5.08; N, 1.48.

reactant | 4-methoxy-benzoic acid 6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-dihydroxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-4,5-dihydroxy-tetrahydro-pyran-2-ylmethyl ester | C(C)(=O)NC=1C=C(COC2C(C(C(C(O2)COC(C2=CC=C(C=C2)OC)=O)OC2C(C(C3OC(OCC3O2)C2=CC=CC=C2)O)O)O)O)C=CC1Cl | C36H40ClNO14
reactant | KBr | [K+].[Br-]
solvent | H2O | O | H2O
product | 4-Methoxy-benzoic acid 4,5-diacetoxy-6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-diacetoxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-tetrahydro-pyran-2-ylmethyl ester | C(C)(=O)OC1C(C(OC(C1OC(C)=O)OCC1=CC(=C(C=C1)Cl)NC(C)=O)COC(C1=CC=C(C=C1)OC)=O)OC1C(C(C2OC(OCC2O1)C1=CC=CC=C1)OC(C)=O)OC(C)=O | C44H48ClNO18
